### PR TITLE
refactor: remove `set_option` in `ZagierTwoSquares`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
I refactor one of my very first non-porting contributions to mathlib by changing `zagierSet` to a structure `Zagier.Triple` and rewriting the whole proof to avoid `set_option`s. This required changing the type of `card_fixedPoints_modEq` to accept just `α → α` rather than `Function.End α`.

No deprecations are added since this a leaf file in Archive.

### CODE REVIEW

File: Archive/ZagierTwoSquares.lean [hunk 1]
```diff
@@ -26,183 +26,137 @@ For a geometric interpretation of the piecewise involution (`Zagier.complexInvo`
...
-theorem sq_add_sq_of_nonempty_fixedPoints (hn : (fixedPoints (obvInvo k)).Nonempty) :
-    ∃ a b : ℕ, a ^ 2 + b ^ 2 = 4 * k + 1 := by
-  simp only [sq]
-  obtain ⟨⟨⟨x, y, z⟩, he⟩, hf⟩ := hn
-  have := mem_fixedPoints_iff.mp hf
-  simp only [obvInvo, Subtype.mk.injEq, Prod.mk.injEq, true_and] at this
-  simp only [zagierSet, Set.mem_ofPred_eq] at he
-  use x, (2 * y)
-  rw [show 2 * y * (2 * y) = 4 * y * y by linarith, ← he, this.1]
+def swap : Triple k where
```
Comment (jcommelin) [inline Archive/ZagierTwoSquares.lean]: If you move this up, you can golf `z_ne_zero` and `z_bound`.

Comment (Parcly-Taxel) [reply Archive/ZagierTwoSquares.lean]: Done.
